US07632948B2
A suspension of 60% NaH (350 mg, 8.8 mmol) in dry CH2Cl2 under N2 at 0° C. was added a solution of BocNHOH in CH2Cl2 (5 mL). The reaction mixture was stirred at 0° C. for 30 minutes, where after a solution of (R)-α-tosyloxy-γ-butyrolactone (2 g, 7.8 mmol) in CH2Cl2 (5 mL) was added. The reaction mixture was allowed to warm up to room temperature, and left with stirring overnight. The reaction mixture was quenched with 1M phosphate buffer pH=6.3 (20 mL) and the organic phase separated. The aqueous phase was extracted with CH2Cl2 (2×20 mL), and the combined organic fractions extracted with NaCl (aq., sat.) (15 mL). The organic fraction was dried with Na2SO4, filtered and evaporated to dryness. Column chromatography (150 g SiO2, eluent: EtOAc:PE60/80=1:2) gave 1.5 g (89%) of (S)-α-N-Boc-aminoxy-γ-butyrolactone. [α]D25=−42°; [α]36525=−127°.

reactant | NaH | 8.8 mmol, 350 mg | [H-].[Na+]
reactant | BocNHOH | C(=O)(OC(C)(C)C)NO | C5H11NO3
reactant | (R)-α-tosyloxy-γ-butyrolactone | 7.8 mmol, 2 g | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@H]1C(=O)OCC1 | C11H12O5S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-α-N-Boc-aminoxy-γ-butyrolactone | 1.5 g, 89% | C(=O)(OC(C)(C)C)NO[C@@H]1C(=O)OCC1 | C9H15NO5
